US06156700
Preparation of Ethyl 5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazole-3-acetate
A mixture of 5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazole-3-acetonitrile (1.00 g), ethanol (20.0 mL) and water (1.00 mL) is treated with concentrated sulfuric acid (10.0 mL), refluxed for 15 minutes, and poured into an ice-water mixture. The resultant aqueous mixture is extracted with methylene chloride. The combined organic extracts are washed sequentially with water, saturated sodium hydrogen carbonate solution and water, dried over anhydrous sodium sulfate, and concentrated in vacuo to obtain an orange foam. Column chromatography of the foam using silica gel and a 10% ethyl acetate in methylene chloride solution gives the title product as a solid which is identified by NMR spectral analysis.

reactant | 5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazole-3-acetonitrile | 1.00 g | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)CC#N)C1)=O | C15H9F3N4O2S
reactant | ethanol | 20.0 mL | C(C)O | C2H6O
reactant | water | 1.00 mL | O | H2O
reactant | sulfuric acid | 10.0 mL | S(O)(O)(=O)=O | H2O4S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl 5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazole-3-acetate | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)CC(=O)OCC)C1)=O | C17H14F3N3O4S
